US05658933
a) 3,6-Dimethoxy-2-methylpyridine N-oxide
1.15 g (50 mmol) of sodium were dissolved in 100 ml of anhydrous methanol, and after that 7.4 g (40 mmol) of 3-methoxy-2-methyl-6-nitropyridine N-oxide were added at 20° C. and while stirring. The mixture was then heated to reflux for 3 h and, after having been cooled down, concentrated in vacuo; the residue was taken up in water and this mixture was extracted with dichloromethane; the organic phase was dried and concentrated and the residue was crystallized using diisopropyl ether. 7 g of product were obtained, m.p. 63°-65° C.

reactant | sodium | 50 mmol, 1.15 g | [Na] | Na
reactant | 3-methoxy-2-methyl-6-nitropyridine N-oxide | 40 mmol, 7.4 g | COC=1C(=[N+](C(=CC1)[N+](=O)[O-])[O-])C | C7H8N2O4
reactant | methanol | 100 ml | CO | CH4O
product | 3,6-Dimethoxy-2-methylpyridine N-oxide | 7 g | COC=1C(=[N+](C(=CC1)OC)[O-])C | C8H11NO3
